Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
Jaundice
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ with PMH significant for COPD, h/o 
TIA/stroke, OSA on CPAP and s/p CCY in the 1960s who presents as 
a transfer from ___ for jaundice. Of note patient was 
recently admitted to ___ from ___ for the same.  
 Patient lives full time in ___ and is in Mass visiting 
family for the last month. She notes that 3 weeks ago she was 
hospitalized in ___ for the flu. She was discharged to rehab 
and then home after an uneventful hospital course. She states 
that she was started on augmentin at some point for unknown 
reasons. On day 10 of using augmentin, she noted the onset of 
pruritic rash. The pruritus was worse at night and persisted 
despite her stopping the augmentin. She did not note yellowing 
of the skin or eyes at this time but did notice that her urine 
was darker in color. This darker urine persisted for the last 2 
weeks. She had a UA done at ?___ which showed elevated 
urobilinogen and the ___ staff recommended that she get 
additional blood work.  
 She presented to ___ where she was noted to have ALT 76, 
AST 49, ALP 553, Tbili 3.7, Dbili 2.6, INR 0.9. She was admitted 
to ___ for 2 days during which she had an MRCP and was 
evaluated by GI. MRCP showed mild intrahepatic and extrahepatic 
ductal dilatation without filling defect, normal liver 
parenchyma noted. Workup included iron studies(WNLs except 
ferritin 243), ceruloplasmin(34), lipase(166 -> 61), alpha-1 
antitrypsin(171), monospot(negative), and ___ 1:160). 
Hepatitis serologies showed +HAV IgG with negative IgM, +EBV IgG 
with negative IgM. She was seen by GI at ___ who felt that 
her presentation was consistent with cholestasis secondary to 
the augmentin. They did not recommend further workup but did 
note that should she worsen she will need a liver biopsy.  
 3 days prior to admission, patient was seen at a ___ minute 
clinic for reevaluation as she thought her urine was cloudy. 
Reportedly she was diagnosed with a UTI and started on a course 
of Macrobid for which she took 3 days worth. She continued to 
feel poorly and was unable to walk this morning so she 
represented to ___ for further evaluation. Given no bed 
availability and the likelihood for Hepatology evaluation, she 
was sent to ___ for further evaluation.  
 In the ED, initial vital signs were: 96.8, 74, 122/57, 16, 96% 
RA  
 - Exam was notable for: mild jaundice and essential head tremor 
 
 - Labs were notable for: lipase 70, ALP 378, ALT 38, AST 39, 
Tbili 5.0. UA grossly positive. Urine culture NOT sent.  
 - Imaging: none  
 - The patient was given: no medications  
 - Consults: none  
 Vitals prior to transfer were: 98.0, 74, 133/51, 16, 95% RA  
 Upon arrival to the floor, patient continues to report fatigue 
and pruritus. Patient is poor historian and has difficulty 
remembering medical conditions, medications.  
 REVIEW OF SYSTEMS: Per HPI. Denies headache, visual changes, 
pharyngitis, rhinorrhea, nasal congestion, cough, fevers, 
chills, sweats, weight loss, dyspnea, chest pain, abdominal 
pain, nausea, vomiting, diarrhea, constipation, hematochezia, 
dysuria, rash, paresthesias.  Otherwise remaining systems 
negative.
 
Past Medical History:
 COPD  
 OSA on CPAP  
 TIA/stroke  
 Familial tremor  
 Osteoporosis  
 Compression fractures  
 Cholecystectomy in the ___  
 Hysterectomy  
 Tonsillectomy  
 Left mastoid surgery  
 
Social History:
___
Family History:
 Mother and father both had HTN. Mother died of GI cancer, 
father died of lung cancer.  
 
Physical Exam:
>> ADMISSION PHYSICAL EXAM: 
VITALS: 97.6, 114/74, 77, 18, 97% RA, wt 84.1kg  
GENERAL: Pleasant, well-appearing, in no apparent distress.  
HEENT - normocephalic, atraumatic, no conjunctival pallor. Mild 
scleral icterus, PERRLA, EOMI, OP clear with poor dentition  
NECK: Supple, no LAD, no thyromegaly, JVP flat.  
CARDIAC: Irregular, mild tachycardia, normal S1/S2, early 
diastolic murmur ithout click. No rubs or gallops.  
PULMONARY: Clear to auscultation bilaterally, without wheezes or 
rhonchi.  
ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
EXTREMITIES: Warm, well-perfused, no cyanosis. Trace pitting 
edema. +varicose veins  
SKIN: Mild jaundice with multiple excoriations in various stages 
of healing.  
NEUROLOGIC: Course head tremor. +expressive aphasia which is not 
new. A&Ox3, CN II-XII grossly normal, normal sensation, with 
strength ___ throughout.  
.
>> DISCHARGE PHYSICAL EXAM: 
Vitals: T 97.9  116-130 / 55  67  18  98 RA
I/O:  / 350,  600 3 BMs. 
General: Pleasant, well-appearing, no acute distress, conversing 
well. Does have a facial tremor, with voice trembling as well. 
HEENT: Normocephalic, atruamtic. Mild scleral icterus, no 
conjunctival injection. Oropharynx is clear, poor dentition. 
There is also no sublingual jaundice seen. PERRL. EOMI. 
Cardiac: Irregular, Diastolic murmur II, no other sounds. S1, 
S2. 
Lungs: Clear to auscultation bilaterally, no adventitial sounds
Abdomen: Soft, obese. NT/ND. No RUQUS. No murphys. 
Extremities: No ___ edema bilaterally, warm. 
Skin: Generalized pruritis, itching upper extremities 
bilaterally. No specific excoriations seen. 
Neurologic: There is a course, moderate Hz head tremor, and some 
expressive aphasia. CN II-XII grossly intact. Upper extremities 
are intact. 
 
Pertinent Results:
>> ADMISSION LABS: 
___ 10:20PM BLOOD WBC-8.2 RBC-4.18 Hgb-12.6 Hct-39.4 MCV-94 
MCH-30.1 MCHC-32.0 RDW-15.0 RDWSD-52.2* Plt ___
___ 10:20PM BLOOD Glucose-93 UreaN-16 Creat-0.7 Na-137 
K-4.2 Cl-101 HCO3-25 AnGap-15
___ 10:20PM BLOOD ALT-38 AST-39 AlkPhos-378* TotBili-5.0* 
DirBili-3.0* IndBili-2.0
___ 10:20PM BLOOD Albumin-3.3*
___ 05:03AM BLOOD AMA-NEGATIVE Smooth-NEGATIVE
___ 10:20PM BLOOD TSH-4.1
.
>> DISCHARGE LABS:
___ 07:00AM BLOOD WBC-6.9 RBC-3.93 Hgb-12.0 Hct-37.0 MCV-94 
MCH-30.5 MCHC-32.4 RDW-15.1 RDWSD-52.0* Plt ___
___ 07:00AM BLOOD Neuts-59.4 Lymphs-18.8* Monos-10.9 
Eos-9.6* Baso-0.9 Im ___ AbsNeut-4.08 AbsLymp-1.29 
AbsMono-0.75 AbsEos-0.66* AbsBaso-0.06
___ 07:00AM BLOOD Glucose-117* UreaN-21* Creat-0.7 Na-137 
K-4.6 Cl-103 HCO3-25 AnGap-14
___ 07:00AM BLOOD ALT-36 AST-36 LD(LDH)-225 AlkPhos-355* 
TotBili-4.0*
___ 07:00AM BLOOD Calcium-9.6 Phos-3.4 Mg-2.0
___ 07:04AM BLOOD IGG SUBCLASSES 1,2,3,4-Test      
.
>> PERTINENT REPORTS :
 URINE CULTURE  Preliminary                                      
                     
     Organism 1                     ESCHERICHIA COLI
        COLONY COUNT:               10,000 - 50,000 CFU/ML
.
___: Sinus rhythm with 
underlying right bundle-branch block and left anterior 
hemiblock. Non-specific T wave flattening. No previous tracing 
available for comparison.

 
Brief Hospital Course:
___ year old female, with prior history of COPD, TIA/Stroke, OSA 
on CPAP, prior CCY, now presenting with c/f for elevated 
bilirubin. 
.
>> ACTIVE ISSUES: 
# Hyperbilirubinemia: Patient initially presented with 
___, and underwent extensive workup including CT Abdomen 
scan unremarkable for an external lesion or obstructing mass, 
and then underwent MRCP which was negative for visualization of 
an intrehepatic obstruction. Patient then was discharged however 
represented then for evaluation of continued itching, and 
persistent elevated bilirubin. Patient had initial labs also at 
___, which were reviewed, which were not supportive of 
hemochromatosis, hepatitis, ___ disease. Remarkable for an 
___ 1:160, and upon admission to ___ underwent 
Anti-Smooth Muscle and Mitochondrial Antibiody negative. Given 
patient's prior exposure to augmentin a few weeks prior, was 
thought that her intrahepatic cholestasis likely secondary to 
augmentin exposure and placed on allergy list. Patient's PCP in 
___ also contacted and found to have T-bili 1.4 in ___, 
and 1.7 in ___, without clear workup previously. Patient was 
given cholesytramine, sarna lotion for pruritis likely secondary 
to prior bile salts. Discussed that likely this was a drug 
effect given imaging (reviewed here). Given normal hepatic 
parenchyma seen also thought unlikely to be infiltrative 
disease. Therefore, given likely drug effect patient stable for 
discharge with close follow-up with new PCP (arranged prior to 
discharge), to have repeat LFT testing and continued monitoring. 
Discussion with patient that if she does not have resolution of 
this, she would likely require ERCP / EUS for further evaluation 
of intrahepatic biliary system with direct visualization. 
. 
# UTI: Patient diagnosed previously with UTI, with E. coli < 50K 
colonies grown at ___. Patient denies any symptoms, and 
therefore patient was continued on levofloxacin x 5 days 
(received antibiotics prior). 
. 
# Obstructive Sleep Apnea: Patient was continued on CPAP while 
inpatient, and prescription for CPAP given to patient prior to 
discharge. 
. 
>> CHRONIC ISSUES: 
# Familial Essential Tremor: At baseline per patient and family, 
this stable. 
. 
# Stroke/TIA History: Patient takes Plavix for secondary 
prevention, and was continued during hospital stay. 
. 
>> TRANSITIONAL ISSUES: 
# Hyperbilirubin: Discharge T-bili 4.0. Please obtain Chem, CBC, 
and LFTs upon discharge f/u to trend. If bilirubin still remains 
elevated, would consider referral to Liver for ERCP/EUS. 
# LFTs: AST/ALT improved to normal upon discharge. Please trend 
as above. 
# Physical Therapy: Patient uses walker intermittently, will 
need to be set up with home ___ services as outpatient. Likely 
need new referral with Face-Face sheet.
# UTI: Patient to complete course of UTI on ___. E. coli at 
___ 
# Sleep Apnea: Patient given new prescription for CPAP during 
inpatient
# Low Protein: Likely c/f nutritional deficiency, continue to 
trend weights and recommended nutritional supplements as 
outpatient. 
# Pending Labs: IgG panel pending upon discharge. 
# Home Situation: Patient to be moving to ___ to live with 
daughter, will need new PCP and medications. Prior PCP ___ 
___. 
# Osteoperosis: DEXA ___ T-score -2.3, imaging shows an old 
anterior superior endplate L3 compression fracture.
# Voice Changes: Prior PCP discussed potential vocal cord 
issues, would consider potential ENT referral as an outpatient. 
# CONTACT: Daughter ___, ___  
# CODE STATUS: Full Code  
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Clopidogrel 75 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Ibuprofen 600 mg PO QAM 
4. Pantoprazole 40 mg PO Q24H 
5. Vitamin D Dose is Unknown  PO DAILY 
6. Calcium Carbonate Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1. Clopidogrel 75 mg PO DAILY 
2. Cholestyramine 4 gm PO BID 
RX *cholestyramine (with sugar) 4 gram 4 grams by mouth twice 
daily Refills:*0
3. Levofloxacin 500 mg PO Q24H 
RX *levofloxacin 500 mg 1 tablet(s) by mouth daily Disp #*2 
Tablet Refills:*0
4. Sarna Lotion 1 Appl TP QID 
RX *camphor-menthol  Please apply to arms daily Disp #*1 Package 
Refills:*0
5. Atorvastatin 20 mg PO QPM 
6. Ibuprofen 600 mg PO QAM 
7. Pantoprazole 40 mg PO Q24H 
8. Vitamin D 400 UNIT PO DAILY 
9. CPAP
___ 450REMstar with heated vaporizer. 
ICD-10: Obstructive Sleep Apnea ___ 
Duration: Ongoing 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIANGOSIS: 1. Intrahepatic Cholestasis 2. Urinary Tract 
Infection

SECONDARY DIAGNOSES: 
1. Obstructive Sleep Apnea
2. Familial Tremor

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure taking care of you during your hospital stay 
at ___. While here, you were 
hospitalized because of an elevated bilirubin level. Your prior 
imaging, including your MRI and CT scan were reviewed during 
your hospital stay, and we continued your home medications. We 
believe that your elevated bilirubin is actually due to a 
medication that you had received previously, Amoxicillin. This 
should continue to improve. Since you are moving here, we have 
set up a primary care physician appointment next week to ensure 
that you continue to improve, and they will also check your labs 
as an outpatient to continue to follow. 

Please follow up with your new primary care physician, and with 
your specialists upon discharge. Please continue to take your 
other home medications as prescribed. 

Take Care,
Your ___ Team. 
 
Followup Instructions:
___